US09422292B2
To a solution of (R)-8-bromo-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (1.0 g, 3.4 mmol) in DMF (5 mL) was added NaH (280 mg, 6.8 mmol) at 0° C. After 0.5 h, 5-chloro-2-fluoropyridine (540 mg, 4.08 mmol) was added. The mixture was stirred at room temperature overnight. After quenching with H2O (30 mL), the reaction mixture was extracted with ethyl acetate (10 mL*3). The organic layer was washed with brine and dried over sodium sulfate. Concentrated in vacuo gave (R)-8-bromo-6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (1.0 g, crude) for the next step directly. LRMS (M+H+)+: calcd 403.02. found 404.01.

reactant | (R)-8-bromo-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 3.4 mmol, 1.0 g | BrC=1C=CC2=C(NC[C@H](C=3N2C(=NN3)C)C)C1 | C12H13BrN4
reactant | NaH | 6.8 mmol, 280 mg | [H-].[Na+]
reactant | 5-chloro-2-fluoropyridine | 4.08 mmol, 540 mg | ClC=1C=CC(=NC1)F | C5H3ClFN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-8-bromo-6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 1.0 g | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C3=NC=C(C=C3)Cl)C1 | C17H15BrClN5
